US08623889B2
To a mixture of N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (131.4 mg, 0.4513 mmol), 1-methyl-piperazine (0.11 mL, 0.99 mmol), palladium (II) acetate (10.4 mg, 0.0463 mmol), XPhos (35.4 mg, 0.0742 mmol), and cesium carbonate (462 mg, 1.42 mmol) was added N,N-dimethylacetamide (4 mL). The reaction mixture was then stirred in a sealed vial at 120° C. for 18 hours. The reaction mixture was then cooled to room temperature and partitioned between ethyl acetate and half-saturated aqueous NaHCO3. The organic layer was dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (12 g silica, solvent gradient: 10-30% methanol in dichloromethane) to yield 57.2 mg (41%) of N-(7-(4-methylpiperazin-1-yl)isoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): RT (min)=2.744, M+H=311.1, method=E; 1H NMR (400 MHz, CDCl3) δ 8.81 (s, 1H), 8.42 (s, 1H), 8.14 (s, 1H), 7.67 (d, J=9.1 Hz, 1H), 7.44 (dd, J=9.1, 2.5 Hz, 1H), 7.12 (d, J=2.4 Hz, 1H), 3.36-3.25 (m, 4H), 2.69-2.58 (m, 4H), 2.39 (s, 3H), 1.58 (m, 1H), 1.18-1.08 (m, 2H), 0.94-0.85 (m, 2H).

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 0.4513 mmol, 131.4 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | 1-methyl-piperazine | 0.99 mmol, 0.11 mL | CN1CCNCC1 | C5H12N2
reactant | XPhos | 0.0742 mmol, 35.4 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | cesium carbonate | 1.42 mmol, 462 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium (II) acetate | 0.0463 mmol, 10.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
product | N-(7-(4-methylpiperazin-1-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 57.2 mg, 41% | CN1CCN(CC1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C18H22N4O
